US07067658B2
[4-(2-Chloro-4-dimethylamino-5-fluoro-phenyl)-3-nitro-pyridin-2-yl]-(2-methoxy-1-methyl-ethyl)-amine (318 mg, 0.83 mmol) and SnCl2.H2O (472 mg, 2.5 mmol) were treated substantially as described in Part D of Example 74a to yield 290 mg of crude 4-(2-chloro-4-dimethylamino-5-fluoro-phenyl)-N2-(2-methoxy-1-methyl-ethyl)-pyridine-2,3-diamine: MS (EI) m/z 353.23 [(M+H)+, 100].

reactant | [4-(2-Chloro-4-dimethylamino-5-fluoro-phenyl)-3-nitro-pyridin-2-yl]-(2-methoxy-1-methyl-ethyl)-amine | 0.83 mmol, 318 mg | ClC1=C(C=C(C(=C1)N(C)C)F)C1=C(C(=NC=C1)NC(COC)C)[N+](=O)[O-] | C17H20ClFN4O3
reactant | SnCl2.H2O | 2.5 mmol, 472 mg | Cl[Sn]Cl.O
product | 4-(2-chloro-4-dimethylamino-5-fluoro-phenyl)-N2-(2-methoxy-1-methyl-ethyl)-pyridine-2,3-diamine | 290 mg | ClC1=C(C=C(C(=C1)N(C)C)F)C1=C(C(=NC=C1)NC(COC)C)N | C17H22ClFN4O
